US04364954
8-[3-(Diphenylamino)propyl]-1-(4-methoxyphenyl)-1,3,8-triazaspiro[4,5]decan-4-one.
A mixture of 940 mg. (0.00325 moles) of 3-[N,N-diphenylamino)-1-bromopropane (prepared according to the procedure of Example 2) and 850 mg. (0.00325 moles) of 1-(4-methoxyphenyl)-1,3,8-triazaspiro[4,5]decan-4-one, 400 mg. of sodium carbonate and 100 mg. of sodium iodide in 15 ml. of methyl ethyl ketone is refluxed for about 16 hours. The preparation of 1-(4-methoxyphenyl)-1,3,8-triazaspiro[4,5]decan-4-one is described in United States Pat. No. 3,155,670 to Janssen, issued Nov. 3, 1964. Solvent is evaporated and the residue is dissolved in chloroform, washed with water and chromatographed on a column of silica gel. The product fractions are evaporated and the residue is recrystallized from isopropyl alcohol and again from ethanol, giving 470 mg. of 8-[3-diphenylamino)propyl]-1-(4-methoxyphenyl)-1,3,8-triazaspiro[4,5]decan-4-one, mp. 156.5°-157.5° C.

reactant | 3-[N,N-diphenylamino)-1-bromopropane | 0.00325 moles | C1(=CC=CC=C1)N(C1=CC=CC=C1)CCCBr | C15H16BrN
reactant | 1-(4-methoxyphenyl)-1,3,8-triazaspiro[4,5]decan-4-one | 0.00325 moles | COC1=CC=C(C=C1)N1CNC(C12CCNCC2)=O | C14H19N3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | [I-].[Na+]
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 8-[3-(Diphenylamino)propyl]-1-(4-methoxyphenyl)-1,3,8-triazaspiro[4,5]decan-4-one | C1(=CC=CC=C1)N(CCCN1CCC2(C(NCN2C2=CC=C(C=C2)OC)=O)CC1)C1=CC=CC=C1 | C29H34N4O2
